US04284641
Preparation of 1-(pent-4-enyl)imidazole
Pent-4-enyl bromide (10 g, 0.067 mole) was added dropwise to a stirred refluxing mixture of imidazole (9 g; 0.132 mole) and sodium bicarbonate (11 g; 0.13 mole) in methanol (50 ml). After addition the mixture was stirred for a further 50 hours under reflux. The reaction mixture was filtered to remove the insoluble matter and the filtrate evaporated to a yellow oil. This oil was taken up in 2M HCl (150 ml) and washed with ether (50 ml). The acid solution was then basified with 10M NaOH (about 30 ml) and extracted with chloroform (3×50 ml). The combined extracts were dried over anhydrous MgSO4 and the solvent removed under vacuum to leave a yellow oil as crude product, which was purified on silica gel column using 10% MeOH/EtOAc as eluent. 1.0 g distilled in vacuo b.p. 132°/12 mm, yield 0.9 g. Micro analysis: C8H12N2 requires C,70.59, H,8.82, N,20.59. Found: C,69.24, H,8.56, N,20.11.

reactant | Pent-4-enyl bromide | 0.067 mole, 10 g | C(CCC=C)Br | C5H9Br
reactant | imidazole | 0.132 mole, 9 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | 0.13 mole, 11 g | C([O-])(O)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(pent-4-enyl)imidazole | C(CCC=C)N1C=NC=C1 | C8H12N2
